US07323475B2
b) {[1-(4-Acetylamino-phenoxy)-4-hydroxy-isoquinoline-3-carbonyl]-amino}-acetic acid
A mixture of 4-Acetoxy-1-(4-acetylamino-phenoxy)-isoquinoline-3-carboxylic acid butyl ester (150 mg, 0.34 mmol), glycine (290 mg, 3.4 mmol), and 7.8 ml of a 0.5 N solution of sodium methoxide in methanol (3.9 mmol) was refluxed over the weekend with stirring. Then the solvent was evaporated in vacuo and the residue dissolved in 25 ml of water. The pH of the solution was subsequently adjusted to about 2 and the resulting slurry was extracted with ethyl acetate (3×30 ml). The combined extracts were dried over MgSO4 and evaporated in vacuo. Recrystallization of the residue from methanol/CH2Cl2 gave 86 mg of the title compound; MS-(+)-ion: M+1=396.15.

reactant | 4-Acetoxy-1-(4-acetylamino-phenoxy)-isoquinoline-3-carboxylic acid butyl ester | 0.34 mmol, 150 mg | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1OC(C)=O)OC1=CC=C(C=C1)NC(C)=O | C24H24N2O6
reactant | glycine | 3.4 mmol, 290 mg | NCC(=O)O | C2H5NO2
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 3.9 mmol | CO | CH4O
product | {[1-(4-Acetylamino-phenoxy)-4-hydroxy-isoquinoline-3-carbonyl]-amino}-acetic acid | 86 mg | C(C)(=O)NC1=CC=C(OC2=NC(=C(C3=CC=CC=C23)O)C(=O)NCC(=O)O)C=C1 | C20H17N3O6
